US07632832B2
Step B. tert-Butyl 4-({[(2-ethoxy-2-oxo-1-pyridin-2-ylethyl)amino]carbonyl} amino)piperidine-1-carboxylate
4-Amino-1-boc-piperidine (302 mg, 1.51 mmol) and triethylamine (0.210 mL, 1.51 mmol) in tetrahydrofuran (5 mL) were added to a solution of p-nitrophenylchloroformate (970 mg, 4.8 mmol) in tetrahydrofuran (15 mL) at 0° C. After 1 h, additional diisopropylethylamine was added (0.420 mL, 3.02 mmol) along with ethyl amino(pyridin-2-yl)acetate (272 mg, 1.51 mmol). The reaction was warmed to room temperature and stirred overnight. The mixture was filtered, concentrated and redissolved in ethyl acetate. The ethyl acetate layer was washed with 1N sodium hydroxide (3×), saturated sodium bicarbonate solution, water, brine, and dried over sodium sulfate. Purification by silica gel chromatography (100% dichloromethane→10% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (330 mg). MS 407.29 (M+1)

reactant | 4-Amino-1-boc-piperidine | 1.51 mmol, 302 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 1.51 mmol, 0.210 mL | C(C)N(CC)CC | C6H15N
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl amino(pyridin-2-yl)acetate | 1.51 mmol, 272 mg | NC(C(=O)OCC)C1=NC=CC=C1 | C9H12N2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-({[(2-ethoxy-2-oxo-1-pyridin-2-ylethyl)amino]carbonyl} amino)piperidine-1-carboxylate | 330 mg | C(C)OC(C(C1=NC=CC=C1)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H30N4O5
